US09108936B2
A solution of 2-(ethylsulfonyl)-6-methyl-4-morpholin-4-yl-benzonitrile (0.50 g, 1.70 mmol) in concentrated sulfuric acid (4 ml) is stirred at 100° C. for 1.5 h. After completion of reaction (monitored by TLC), the reaction mixture is diluted with water (30 ml), basified with aqueous ammonia, and extracted with ethyl acetate (3×15 ml). The organic layer is washed with water (20 ml), brine (15 ml), dried over anhydrous sodium sulfate and evaporated to get 2-(ethylsulfonyl)-6-methyl-4-morpholin-4-yl-benzamide which is used in the next step without further purification (0.50 g, 1.60 mmol, 94%).

reactant | 2-(ethylsulfonyl)-6-methyl-4-morpholin-4-yl-benzonitrile | 1.70 mmol, 0.50 g | C(C)S(=O)(=O)C1=C(C#N)C(=CC(=C1)N1CCOCC1)C | C14H18N2O3S
reactant | ammonia | N | H3N
reactant | sulfuric acid | 4 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | 30 ml | O | H2O
product | 2-(ethylsulfonyl)-6-methyl-4-morpholin-4-yl-benzamide | C(C)S(=O)(=O)C1=C(C(=O)N)C(=CC(=C1)N1CCOCC1)C | C14H20N2O4S
